US07214673B2
Cyano-isobutyrylamino-acetic acid ethyl ester
Cool a solution of crude amino-cyano-acetic acid ethyl ester (5.68 g, 44.3 mmol) in CH2Cl2 (60 mL) to 0–5° C. under N2. Add pyridine (3.60 mL, 44.5 mmol), followed by isobutyric anhydride (7.40 mL, 44.6 mmol). Allow the reaction solution to warm to rt overnight (18 h) until complete by TLC (3:1/EtOAc:heptane, 12 stain, co-spot needed to distinguish between SM and impurity). Wash the solution with aqueous 1N HCl, water, aq. sat'd NaHCO3, then brine (50 mL each). Dry the organic layer (MgSO4), filter, and concentrate the filtrate to dryness in vacuo on a rotovapor to a solid. Triturate the solid with Et2O (150 mL), filter and dry (50° C. vacuum oven) to afford 4.33 g (49%) of the title compound.

reactant | amino-cyano-acetic acid ethyl ester | 44.3 mmol, 5.68 g | C(C)OC(C(C#N)N)=O | C5H8N2O2
reactant | pyridine | 44.5 mmol, 3.60 mL | N1=CC=CC=C1 | C5H5N
reactant | isobutyric anhydride | 44.6 mmol, 7.40 mL | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
product | Cyano-isobutyrylamino-acetic acid ethyl ester | 4.33 g, 49% | C(C)OC(C(NC(C(C)C)=O)C#N)=O | C9H14N2O3
